US07345180B2
4-Methoxy-2-phenylbenzothiazole-6-carboxylic acid
4-Amino-3-mercapto-5-methoxybenzoic acid (600 mg) and thiobenzamide (450 mg) were suspended in ethylene glycol (10 ml). Conc. hydrochloric acid (1.0 ml) was added thereto, and the mixture was stirred for 7 hours at 60° C. The reaction mixture was cooled to room temperature, then cold water was added thereto, and precipitated crystals were collected by filtration and washed with water and n-hexane. The crystals were dried under reduced pressure to give the title compound (280 mg, Y.:32%) as white crystals.

reactant | 4-Amino-3-mercapto-5-methoxybenzoic acid | 600 mg | NC1=C(C=C(C(=O)O)C=C1OC)S | C8H9NO3S
reactant | thiobenzamide | 450 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | water | O | H2O
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 4-Methoxy-2-phenylbenzothiazole-6-carboxylic acid | 280 mg, 32% | COC1=CC(=CC2=C1N=C(S2)C2=CC=CC=C2)C(=O)O | C15H11NO3S
